US08455483B2
b) (2-(3-Bromobenzyloxy)ethoxy)(tert-butyl)dimethylsilane
A solution of 2-(3-bromobenzyloxy)ethanol [Aromatic Intermediate 25, step a] (3 g), imidazole (2.2 g) and tert-butyldimethylchlorosilane (2.2 g) in DCM (50 mL) was stirred at RT for 17 hours. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (×2). The combined organic phases were dried and evaporated in vacuo. The crude product was purified by silica gel chromatography, gradient elution 10 to 40% ethyl acetate in isohexane. Fractions containing the product were evaporated to dryness to afford the subtitled compound as a colourless oil. Yield 3.8 g.

reactant | 2-(3-bromobenzyloxy)ethanol | BrC=1C=C(COCCO)C=CC1 | C9H11BrO2
reactant | imidazole | 2.2 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 2.2 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-(3-Bromobenzyloxy)ethoxy)(tert-butyl)dimethylsilane | BrC=1C=C(COCCO[Si](C)(C)C(C)(C)C)C=CC1 | C15H25BrO2Si
